US04130717
A suspension of 9.2 g. of 5-chloro-2-hydroxy-benzophenone imine in 60 ml. of ethanol is treated with 12.6 g. of aminomalonic acid diethyl ester hydrochloride and 5.0 ml. of pyridine and the mixture boiled at reflux for 1 hour while stirring. The mixture is then concentrated to dryness under reduced pressure and the residue partitioned between toluene and water. The organic phase is washed with water, briefly dried over sodium sulfate and evaporated to dryness. The residual oily residue crystallizes upon trituration with hexane. There is obtained [(5-chloro-2-hydroxy-α-phenylbenzyliden)amino] malonic acid diethyl ester, having a melting point of 55°-56° C. Recrystallization from ethanol yields gold-yellowish leaflets having the same melting point.

reactant | 5-chloro-2-hydroxy-benzophenone imine | ClC=1C=CC(=C(C(C2=CC=CC=C2)=N)C1)O | C13H10ClNO
reactant | ethanol | C(C)O | C2H6O
reactant | aminomalonic acid diethyl ester hydrochloride | Cl.C(C)OC(C(C(=O)OCC)N)=O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | [(5-chloro-2-hydroxy-α-phenylbenzyliden)amino] malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)N=C(C1=C(C=CC(=C1)Cl)O)C1=CC=CC=C1)=O | C20H20ClNO5
